US07888374B2
(2,5-Dimethoxy-4-nitro-phenyl)-acetic acid
A solution of of 2,5-dimethoxyphenylacetic acid (1.00 g, 5.10 mmol) in 10 mL of acetic acid was added 6.5 mL of 1.0M HNO3 in acetic acid. The reaction was stirred at ambient temperature for 10 min, and diluted with 75 mL of water. The yellow precipitate was collected and washed with water (3×10 mL), then dried on the filter. Recrystallization from 20 mL of 2-propanol gave 846 mg (69%) of the titled compound as fine yellow crystals.

reactant | 2,5-dimethoxyphenylacetic acid | 5.10 mmol, 1.00 g | COC1=C(C=C(C=C1)OC)CC(=O)O | C10H12O4
reactant | HNO3 | 1.0M, 6.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 75 mL | O | H2O
product | (2,5-Dimethoxy-4-nitro-phenyl)-acetic acid | 846 mg, 69% | COC1=C(C=C(C(=C1)[N+](=O)[O-])OC)CC(=O)O | C10H11NO6
